US04572791
A mixture of 1.53 grams of methyldidecylsilane, and 0.70 gram of 1-decene in 5 milliliters of benzene was reacted for 25 hours at 50° C. in the presence of 0.005 gram hydridocarbonyltris(triphenylphosphine)rhodium(I). Chromatographic analysis showed that an 85 percent yield of methyltridecylsilane was formed at a 65 percent silane conversion.

reactant | methyldidecylsilane | 1.53 grams | C[SiH](CCCCCCCCCC)CCCCCCCCCC | C21H46Si
reactant | 1-decene | 0.70 gram | C=CCCCCCCCC | C10H20
solvent | benzene | 5 milliliters | C1=CC=CC=C1 | C6H6
catalyst | hydridocarbonyltris(triphenylphosphine)rhodium(I) | 0.005 gram | [C-]#[O+].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Rh]
product | methyltridecylsilane | 85 percent yield | C[SiH2]CCCCCCCCCCCCC | C14H32Si
